US07868014B2
(S)-(2,4-Dichlorobenzyl)-[1-(5-ethynylpyridin-2-yl)-pyrrolidin-3-yl]-amine
Dissolve (S)-(2,4-dichlorbenzyl)-[1-(5-trimethylsilanylethynyl-pyridin-2-yl)-pyrrolidin-3-yl]-amine (190 mg, 0.45 mmol) in THF (10 mL). Add tetrabutylammonium fluoride (1 mL, 1.0 M in THF) dropwise. Stir for 2 h at room temperature. Add water. Extract with ethyl acetate (3×), wash the organic layers with saturated aqueous sodium chloride, dry (magnesium sulfate), concentrate and chromatograph on silica gel, eluting with a 20:80 to 1:1 ethyl acetate:hexanes, to give the title compound as a yellow oil (141 mg, 90%). Dissolve the oil in methanol and add fumaric acid (47 mg, 0.41 mmol) in methanol. Concentrate most of the solvent, add acetonitrile and stir overnight. Filter the solid and dry in a vacuum oven at 60° C. overnight to give the title compound as its fumarate salt (139 mg, 74%). 1H NMR (400 MHz, MeOH-d4) 8.15 (d, 1H, J=2.4 Hz), 7.59-7.54 (m, 3H), 7.39 (dd, 1H, J=8.0, 2.0 Hz), 6.72 (s, 2H), 6.50 (d, 1H, J=8.8 Hz), 4.20-4.12 (m, 2H), 3.83-3.76 (m, 2H), 3.70-3.64 (m, 1H), 3.59-3.47 (m, 2H), 3.44 (s, 1H), 2.46-2.38 (m, 1H), 2.18-2.09 (m, 1H), MS (ES): m/z=346 [M+H].

reactant | (S)-(2,4-dichlorbenzyl)-[1-(5-trimethylsilanylethynyl-pyridin-2-yl)-pyrrolidin-3-yl]-amine | 0.45 mmol, 190 mg | ClC1=C(CN[C@@H]2CN(CC2)C2=NC=C(C=C2)C#C[Si](C)(C)C)C=CC(=C1)Cl | C21H25Cl2N3Si
reactant | tetrabutylammonium fluoride | 1.0 M, 1 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (S)-(2,4-Dichlorobenzyl)-[1-(5-ethynylpyridin-2-yl)-pyrrolidin-3-yl]-amine | 141 mg, 90% | ClC1=C(CN[C@@H]2CN(CC2)C2=NC=C(C=C2)C#C)C=CC(=C1)Cl | C18H17Cl2N3
